US06660742B2
A solution of 2-[4-benzyloxy-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethyl chloride (70 mg, 0.13 mmol) in THF (10 mL) was added to a suspension of 10% Pd/C (50 mg) in chilled THF (10 mL) and the suspension was hydrogenated under H2 atmosphere at room temperature overnight. The suspension was filtered over Celite and the filtrate was concentrated in reduced pressure. The residue was crystallized with diethylether to yield 4-(2-chloroethyl)-3-(5,6,7-trimethoxyindole-2-carboxamido)-1-naphthol (54 mg, 91%) as a white solid: mp 212° C. (decomp.); 1H NMR (CDCl3, 500 MHz) δ 9.55 (s, 1H), 8.76 (s, 1H), 8.33 (d, 8.0, 1H), 7.82 (d, 8.5, 1H), 7.78 (brs, 1H), 7.71 (s, 1H), 7.57 (t, 7.0, 1H), 7.48 (t, 7.5, 1H), 7.03 (s, 1H), 6.88 (s, 1H), 4.13 (s, 3H), 4.06 (t, 6.0, 1H), 3.97 (s, 3H), 3.93 (s, 3H), ), 3.61 (t, 6.0, 2H); FABMS (NBA) m/z 455 (M+H+), FABHR (NBA) m/z 454.1290 (M+H+, C24H23ClN2O5 requires 454.1296); IR (neat) νmax 3416, 3193, 3149, 2936, 1621, 1592, 1524, 1435, 1411, 1383, 1328, 1267, 1244, 1197, 1126, 1096, 1054, 852, 821, 758, 743 cm1.

reactant | 2-[4-benzyloxy-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethyl chloride | 0.13 mmol, 70 mg | C(C1=CC=CC=C1)OC1=CC(=C(C2=CC=CC=C12)CCCl)NC(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C31H29ClN2O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 4-(2-chloroethyl)-3-(5,6,7-trimethoxyindole-2-carboxamido)-1-naphthol | 54 mg, 91% | ClCCC1=C(C=C(C2=CC=CC=C12)O)NC(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C24H23ClN2O5
